US06281227B1
A. 4-Thiophen-2-yl-pyridine
2-Bromothiophene (7.6 mL, 78.5 mmol) is added dropwise to a flame and vacuum dried three-necked round-bottomed flask fitted with a condenser, stopper and magnesium (2 g, 82.3 mmol) in diethyl ether (70 mL). The resulting grey solution is stirred at reflux for 1.5 hours. Meanwhile 4-bromopyridine hydrochloride is converted to the free base in the following manner: 4-Bromopyridine hydrochloride (15.3 g, 78.7 mmol) is dissolved in water (100 mL), and cooled in an ice bath. One equivalent of 1 N NaOH (ca. 100 mL) is added dropwise until pH is ˜5.6. The ice-cooled aqueous solution is extracted with hexane (3×150 mL) and the combined organic layers are dried over MgSO4 and filtered. Hexane is removed under vacuum (11 mm Hg) while cooling in an ice-bath to a volume of ca. 30 mL. The resulting colorless clear solution is diluted with THF (150 mL) under N2. The Grignard reagent is then cooled to room temperature and added via cannula to the solution of NiCl2dppp (0.54 g, 1 mmol) and 4-bromopyridine in THF. The resulting dark solution is refluxed overnight. The reaction mixture is then poured over saturated NH4Cl solution and extracted with diethyl ether (3×200 mL). The combined ethereal layers are acidified with 2 N HCl (300 mL) and the aqueous layer is washed with diethyl ether. The aqueous layer is then cooled in an ice-bath and neutralized with sodium bicarbonate. The aqueous layer is extracted with ethyl acetate (3×200 mL) and the combined organic layers are dried over MgSO4, filtered and concentrated to give a brown solid. The crude solid is taken up in hot hexanes and the yellow solution is separated from the insoluble black solid. The hexane solution is concentrated and the above procedure is repeated. Upon cooling the hexane solution, yellow solid precipitates form. The yellow solid is collected to give the title compound (8.99 g, 55.8 mmol).

reactant | 2-Bromothiophene | 78.5 mmol, 7.6 mL | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 82.3 mmol, 2 g | [Mg] | Mg
reactant | 4-bromopyridine hydrochloride | Cl.BrC1=CC=NC=C1
reactant | 4-Bromopyridine hydrochloride | 78.7 mmol, 15.3 g | Cl.BrC1=CC=NC=C1
reactant | NaOH | 1 N, ca. 100 mL, One equivalent | [OH-].[Na+]
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 4-Thiophen-2-yl-pyridine | 55.8 mmol, 8.99 g | S1C(=CC=C1)C1=CC=NC=C1 | C9H7NS
